US07176242B2
Step 2: 1-Butyl-4-cyano-1H-indole-6-carboxylic acid
To a mixture of methyl 1-butyl-4-cyano-1H-indole-6-carboxylate (10.5 g) in methanol (15 mL) was added 1N NaOH (3.0 mL). The mixture was heated at 40° C. for 2 h then cooled to room temperature. The mixture was poured into 1N HCl and extracted into ethyl acetate. The ethyl acetate extract was dried over anhydrous magnesium sulfate and concentrated to give 0.45 g of the title compound: 1H NMR (CDCl3) δ 0.973, 1.38, 1.88, 4.27, 6.79, 7.48, 8.24, 8.38.

reactant | methyl 1-butyl-4-cyano-1H-indole-6-carboxylate | 10.5 g | C(CCC)N1C=CC2=C(C=C(C=C12)C(=O)OC)C#N | C15H16N2O2
reactant | NaOH | 1N, 3.0 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 1-Butyl-4-cyano-1H-indole-6-carboxylic acid | 0.45 g | C(CCC)N1C=CC2=C(C=C(C=C12)C(=O)O)C#N | C14H14N2O2
